US04808605
A solutionoof 20.3 g (0.07 mol) of trans-4-(N-benzyloxycarbonyl-aminomethyl)cyclohexanecarboxylic acid in 380 ml of dimethylformamide is treated at 15°-20° under argon with 0.21 mol of sodium hydride (9.35 g of a 55% dispersion in mineral oil) and thereupon stirred at room temperature for a further 30 minutes. A solution of 17.5 ml (0.28 mol) of methyl iodide in 20 ml of dimethylformamide is added thereto at 25°-30° within 20 minutes and the mixture is stirred at 70° for a further 1 hour. After concentration under reduced pressure the residue is partitioned between water and methylene chloride. The organic phase is evaporated and the residual oil is dissolved in a mixture of 350 ml of ethanol and 350 ml of 1N sodium hydroxide solution. The mixture is heated to reflux for 1 hour, cooled and poured into 700 ml of ice-water The solution is extracted with ethyl acetate and then acidified with 6N hydrochloric acid. The liberated acid is extracted with methylene chloride and the extract is dried over sodium sulphate and evaporated. The residual oil is chromatographed on 270 g of silica gel with a mixture of methylene chloride/ethyl acetate (4:1) as the elution agent. There are obtained 13.6 g (64%) of trans-4-(N-benzyloxycarbonyl-N-methyl-aminomethyl)cyclohexanecarboxylic acid as a thick oil.

reactant | trans-4-(N-benzyloxycarbonyl-aminomethyl)cyclohexanecarboxylic acid | 0.07 mol, 20.3 g | C(C1=CC=CC=C1)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C16H21NO4
reactant | sodium hydride | 0.21 mol | [H-].[Na+]
reactant | methyl iodide | 0.28 mol, 17.5 ml | CI | CH3I
solvent | dimethylformamide | 380 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | trans-4-(N-benzyloxycarbonyl-N-methyl-aminomethyl)cyclohexanecarboxylic acid | 13.6 g, 64% | C(C1=CC=CC=C1)OC(=O)N(C)C[C@@H]1CC[C@H](CC1)C(=O)O | C17H23NO4
